US04990508
In 60 ml of ethanol was dissolved 5.22 g of ethyl 4-[2-(N-tert-butoxycarbonyl-N-methoxycarbonylaminomethyl)cyclopropyl]-2,3,5-trifluorobenzoate. To the resulting solution was added 60 ml of a 1N aqueous sodium hydroxide solution. The resulting mixture was stirred at room temperature for 2 hours. To the reaction mixture was added 60 ml of water and the resulting mixture was adjusted to pH 8 with 6N hydrochloric acid. Then, 150 ml of ethyl acetate was added thereto. The aqueous layer was separated and 100 ml of ethyl acetate was added thereto. The resulting mixture was adjusted to pH 2 with 6N hydrochloric acid. The organic layer was separated, washed with water and a saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure to obtain 4.10 g (98.1%) of 4-(2-tert-butoxycarbonylaminomethylcyclopropyl)-2,3,5-trifluorobenzoic acid.

reactant | ethyl 4-[2-(N-tert-butoxycarbonyl-N-methoxycarbonylaminomethyl)cyclopropyl]-2,3,5-trifluorobenzoate | 5.22 g | C(C)(C)(C)OC(=O)N(C(=O)OC)CC1C(C1)C1=C(C(=C(C(=O)OCC)C=C1F)F)F | C20H24F3NO6
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | water | 60 ml | O | H2O
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 4-(2-tert-butoxycarbonylaminomethylcyclopropyl)-2,3,5-trifluorobenzoic acid | 4.10 g, 98.1% | C(C)(C)(C)OC(=O)NCC1C(C1)C1=C(C(=C(C(=O)O)C=C1F)F)F | C16H18F3NO4
